US06664427B1
The 4′-cyano-salicylanilide was prepared by condensing phenyl salicylate with 4-amino-benzonitrile then purified as described in Example 2a. The ligand mixture was then prepared from 4′-cyano-salicylanilide and 1,1′-bi-2-naphthol using the procedure described in Example 5a. 31P NMR (121.77 MHz): several peaks between 116.4-117.7 ppm.

reactant | phenyl salicylate | C(C=1C(O)=CC=CC1)(=O)OC1=CC=CC=C1 | C13H10O3
reactant | 4-amino-benzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
product | 4′-cyano-salicylanilide | C(#N)C1=CC=C(NC(C=2C(O)=CC=CC2)=O)C=C1 | C14H10N2O2
